US03952114
1,3-Dimethyl-2-(p-tolyl)imidazolidine.
Using the method of Birch and Dastur, Austral. J. Chem., 26, 1364 (1973), a solution of 48 g of p-tolualdehyde in 185 ml of benzene was added dropwise to a stirred solution of 25 g of sym-dimethylethylenediamine in 95 ml of benzene, and heated at 60° for 2 hrs. Evaporation and distillation at 52° (0.1 mm) afforded 48 g, identified by nmr.

reactant | p-tolualdehyde | 48 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | sym-dimethylethylenediamine | 25 g | CNCCNC | C4H12N2
solvent | benzene | 185 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 95 ml | C1=CC=CC=C1 | C6H6
product | 1,3-Dimethyl-2-(p-tolyl)imidazolidine | CN1C(N(CC1)C)C1=CC=C(C=C1)C | C12H18N2
